US05723655
A reactor was charged with 20 g (0.07 mole) of sodium N,N-bis(3-chloro-2-hydroxypropyl)glycine obtained in the same manner as in Referential Example 1 and 100 g of water, and the contents were kept at 50° C., to which 35 ml of a 4N aqueous solution of sodium hydroxide were added. After the mixture was stirred for 30 minutes, the solvent was distilled off under reduced pressure, and 100 ml of ethanol were added to the residue to separate insoluble matter by filtration. Thereafter, ethanol was distilled off under reduced pressure, thereby obtaining 11 g (isolation yield: 84%) of N,N-bis(2,3-epoxypropyl)glycine.

reactant | sodium N,N-bis(3-chloro-2-hydroxypropyl)glycine | 0.07 mole, 20 g | ClCC(CN(CC(=O)O)CC(CCl)O)O.[Na]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 100 g | O | H2O
product | N,N-bis(2,3-epoxypropyl)glycine | 11 g, yield: 84% | O1C(CN(CC(=O)O)CC2CO2)C1 | C8H13NO4
